US05627197
1.1 g of 3-(4-chloromethylphenyl)-5(R)-[4-(1,2di-benzyloxycarbonylethyl)piperazinomethyl]oxazolidin-2-one [obtainable by reaction of 4-chloromethylaniline with 2,3-epoxypropan-1-ol to give N-(4-chloro-methylphenyl)-2,3-dihydroxypropylamine, reaction with diethyl carbonate in the presence of K tert-butoxide to give 3-(4-chloromethylphenyl)-5-hydroxymethyl-oxazolidin-2-one, subsequent esterification with methanesulfonyl chloride and reaction with 1-(1,2-dibenzyloxycarbonylethyl)piperazine], dissolved in 30 ml of DMF, are treated at room temperature with 0.9 g of freshly prepared guanidine, dissolved in 10 ml of DMF, and the mixture is stirred for two hours. After removal of the solvent and customary working up, 3-(4-guanidinylmethylphenyl)-5(R)-[4-(1,2-dibenzyloxycarbonylethyl)piperazinomethyl]oxazolidin-2-one is obtained.

reactant | 3-(4-chloromethylphenyl)-5(R)-[4-(1,2di-benzyloxycarbonylethyl)piperazinomethyl]oxazolidin-2-one | 1.1 g | ClCC1=CC=C(C=C1)N1C(O[C@@H](C1)CN1CCN(CC1)C(CC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=O | C33H36ClN3O6
reactant | 4-chloromethylaniline | ClCC1=CC=C(N)C=C1 | C7H8ClN
reactant | 2,3-epoxypropan-1-ol | O1C(CO)C1 | C3H6O2
reactant | N-(4-chloro-methylphenyl)-2,3-dihydroxypropylamine | ClC1=CC(=C(C=C1)NCC(CO)O)C | C10H14ClNO2
reactant | diethyl carbonate | C(OCC)(OCC)=O | C5H10O3
reactant | tert-butoxide | CC(C)([O-])C
product | 3-(4-chloromethylphenyl)-5-hydroxymethyl-oxazolidin-2-one | ClCC1=CC=C(C=C1)N1C(OC(C1)CO)=O | C11H12ClNO3
